US06235936B1
Synthesis of N-(4-Fluorophenyl)-N-(4-phenylphenyl)hydrazine
4-Fluorophenylhydrazine hydrochloride (1.2 equiv., 0.6 mmol, 98 mg), 4-bromobiphenyl (1.0 equiv., 0.5 mmol, 117 mg), Pd(OAc)2 (0.05 equiv., 0.025 mmol, 6 mg), BINAP (0.05 equiv., 0.025 mmol, 16 mg), NaOtBu (1.4 equiv., 0.7 mmol, 67 mg) and diisopropylamine (2 mL) were added to an oven dried test tube which was capped with a septum and purged briefly with argon (a 1 min.), and then heated to 50° C. under argon for 7 hours. The reaction was then cooled to room temperature, diluted with Et2O (2 mL), filtered through Celite and concentrated under vacuum. The crude mixture was purified by flash column chromatography (10% EtOAc/Hex) to give the title product as a white solid (110 mg, 0.39 mmol, 79% yield).

reactant | 4-Fluorophenylhydrazine hydrochloride | 0.6 mmol, 98 mg, 1.2 equiv. | Cl.FC1=CC=C(C=C1)NN
reactant | 4-bromobiphenyl | 0.5 mmol, 117 mg, 1.0 equiv. | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | NaOtBu | 0.7 mmol, 67 mg, 1.4 equiv. | CC(C)(C)[O-].[Na+]
reactant | diisopropylamine | 2 mL | C(C)(C)NC(C)C | C6H15N
catalyst | Pd(OAc)2 | 0.025 mmol, 6 mg, 0.05 equiv. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | BINAP | 0.025 mmol, 16 mg, 0.05 equiv. | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | N-(4-Fluorophenyl)-N-(4-phenylphenyl)hydrazine | 0.39 mmol, 110 mg, 79% yield | FC1=CC=C(C=C1)N(N)C1=CC=C(C=C1)C1=CC=CC=C1 | C18H15FN2
